US05726172
To a stirred solution of methyl 4-hydroxy-2-methoxybenzoate (310 mg, 1.7 mmol) in dry THF (1.25 mL) was added triphenylphosphine (446 mg, 1.7 mmol) and the solution was cooled to 0° C. A 500 mL volume of trans-2-phenyl-1-cyclohexanol (200 mg, 1.35 mmol) and diethyl azodicarboxylate (319 μL, 2.02 mmol) in THF was added dropwise via addition funnel over 0.5 h. The reaction was filtered and the solvent was removed under reduced pressure. The residue was chromatographed on a silica gel column packed in 92:8 hexanes:EtOAc and eluted with same. The appropriate fractions were combined and the solvent removed under reduced pressure to afford methyl 4-(cis-2-phenyl-1-cyclohexanoyloxy)-2-methoxybenzoate.

reactant | methyl 4-hydroxy-2-methoxybenzoate | 1.7 mmol, 310 mg | OC1=CC(=C(C(=O)OC)C=C1)OC | C9H10O4
reactant | triphenylphosphine | 1.7 mmol, 446 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trans-2-phenyl-1-cyclohexanol | 1.35 mmol, 200 mg | C1(=CC=CC=C1)[C@H]1[C@@H](CCCC1)O | C12H16O
reactant | diethyl azodicarboxylate | 2.02 mmol, 319 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 1.25 mL | C1CCOC1 | C4H8O
product | methyl 4-(cis-2-phenyl-1-cyclohexanoyloxy)-2-methoxybenzoate | C1(=CC=CC=C1)[C@@H]1[C@@H](CCCC1)C(=O)OC1=CC(=C(C(=O)OC)C=C1)OC | C22H24O5
